US07528173B2
A solution of 2-(piperidin-4-yl)prop-2-enoic acid (0.30 g, 1.64 mmol) in 6 mL of 1:1 thioacetic acid/isopropanol was stirred for 24 hours. The reaction mixture was concentrated in vacuo to afford the crude product, 2-(piperidin-4-yl)-3-(acetylthio)propanoic acid. The product was dissolved in 2 mL of water, cooled to 0° C., degassed with nitrogen, and 2 mL of ammonium hydroxide was added. The reaction mixture was stirred for 1 hour, concentrated in vacuo and the residue was dissolved in 10% HCl and purified by preparative HPLC to afford 73 mg of pure 2-(piperidin-4-yl)-3-mercaptopropanoic acid, as a trifluoroacetic acid salt, NMR (D2O) 1.30-1.43 (m,2), 1.70-1.90 (m,3), 2.32-2.42 (m,1), 2.50-2.60 (m,1) 2.63-2.72 (m,1), 2.79-2.90 (m,2), 3.22-3.34 (m,2) ppm.

reactant | 2-(piperidin-4-yl)prop-2-enoic acid | 1.64 mmol, 0.30 g | N1CCC(CC1)C(C(=O)O)=C | C8H13NO2
reactant | thioacetic acid isopropanol | 6 mL | C(C)(=S)O.C(C)(C)O
product | 2-(piperidin-4-yl)-3-(acetylthio)propanoic acid | N1CCC(CC1)C(C(=O)O)CSC(C)=O | C10H17NO3S
